US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 8 using 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid methyl ester (1.9 g) and 1N sodium hydroxide (14 ml), the objective 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid (1.7 g) was obtained as colorless crystals.

reactant | 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid methyl ester | 1.9 g | COC(=O)C1=CC=C2C(CCOC2=C1)NC(=O)OCC1=CC=CC=C1 | C19H19NO5
reactant | sodium hydroxide | 1N, 14 ml | [OH-].[Na+]
product | 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid | 1.7 g | C(C1=CC=CC=C1)OC(=O)NC1CCOC2=CC(=CC=C12)C(=O)O | C18H17NO5
